US07700594B2
To a suspension of 1H-1,2,4-triazole (1 g, 0.02 mol) in acetonitrile (23 mL) was added dropwise phosphoryl chloride (0.6 mL, 0.007 mol) and triethylamine (3 mL, 0.02 mol) at 0° C. To this mixture was added 7-cyclohexyl-5-iodoimidazo[5,1-f][1,2,4]triazin-4(3H)-one (77 mg, 0.224 mmol) and the resulting mixture refluxed overnight. The cooled mixture was then quenched with excess NH3 in iPrOH (pH 8) stirred at rt for 30 min. then filtered and the isolated solid washed with DCM. The filtrate was concentrated in vacuo and purified by chromatography over silica gel eluting with 2% MeOH in DCM to afford the 7-cyclohexyl-5-iodoimidazo[5,1-f][1,2,4]triazin-4-amine. 1H NMR (400 MHz-DMSO-d6) δ 1.14-1.91 (m, 10H), 3.11-3.18 (m, 1H), 6.75 (br.s, 1H), 7.84 (s, 1H) 8.42 (bs, 1H); MS (ES+): m/z: 344.01 (100) [MH+]. HPLC: tR=3.10 min (OpenLynx: polar—5 min).

reactant | 1H-1,2,4-triazole | 0.02 mol, 1 g | N1N=CN=C1 | C2H3N3
reactant | phosphoryl chloride | 0.007 mol, 0.6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 0.02 mol, 3 mL | C(C)N(CC)CC | C6H15N
reactant | 7-cyclohexyl-5-iodoimidazo[5,1-f][1,2,4]triazin-4(3H)-one | 0.224 mmol, 77 mg | C1(CCCCC1)C1=NC(=C2C(NC=NN21)=O)I | C11H13IN4O
solvent | acetonitrile | 23 mL | C(C)#N | C2H3N
product | 7-cyclohexyl-5-iodoimidazo[5,1-f][1,2,4]triazin-4-amine | C1(CCCCC1)C1=NC(=C2C(=NC=NN21)N)I | C11H14IN5
